US04810708
Treat 5,6,8,9,10,11-hexahydro-3-methoxy-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one (10 mmoles) with equimolar amounts of acetyl chloride and triethylamine dissolved in CH2Cl2 (10 ml) at 0°-25° C. for 3 days. Wash the resulting solution with aqueous NaHCO3 solution and with water, and dry the organic solution. Evaporate the CH2Cl2, and chromatograph the residue on silica gel. Elute the N-acetylated product with 2% MeOH in CHCl3, and crystallize it from isopropyl acetate/disopropyl ether to provide 11-acetyl-5,6,8,9,10,11-hexahydro-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one, m.p. 178.5°-182° C.

reactant | 5,6,8,9,10,11-hexahydro-3-methoxy-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one | 10 mmoles | COC1=CC=2CCC3=C(N(C=4NCCCC4C3=O)C3=CC=CC=C3)C2C=C1 | C23H22N2O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 11-acetyl-5,6,8,9,10,11-hexahydro-12-phenyl-naphtho[1,2-b][1,8]naphthyridin-7(12H)-one | C(C)(=O)N1CCCC=2C(C3=C(N(C12)C1=CC=CC=C1)C=1C=CC=CC1CC3)=O | C24H22N2O2
